* source ECE351LAB1
V_V1         N09314 N09199  AC 12 0
D_D1         N09314 N09281 D1N4004 
D_D2         N09199 N09281 D1N4004 
D_D3         N09214 N09314 D1N4004 
D_D4         N09214 N09199 D1N4004 
C_C1         N09281 N09214 680u 
X_U1         N09281 N09274 N09214 LM7805C
R_R1         N09214 N09274 10 
